Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left shoulder laceration
 
Major Surgical or Invasive Procedure:
left shoulder laceration  I&D and primary closure ___

 
History of Present Illness:
Patient is a ___ yo RHD M who works as a ___. He was
using a motorized bushcutter (similar to a weedwhacker) to clear
some land today when he hit a bees nest on the ground. As he ran
from the bees the bushcutter turned on and the blade cut his 
left
shoulder. He sustained a large laceration to the left anterior
shoulder and was brought to the ER by EMS for further evaluation
and management. He denies any other injury. He denies
parasthesias or weakness distally.

 
Past Medical History:
none
 
Social History:
___
Family History:
n/c
 
Physical Exam:
AFVSS
GEN: NAD, AAOx3
LUE:
wearing sling
dressing in place C/D/I
shoulder ROM limited by pain 
elbow FROM
SILT and full motor fxn in R/M/U distributions
2+ R/U pulses, WWP

 
Pertinent Results:
___ 03:10PM   WBC-8.7 RBC-4.55* HGB-13.2* HCT-40.0 MCV-88 
MCH-29.1 MCHC-33.1 RDW-13.3
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Trauma Service for 
repair of a L shoulder laceration. The patient was taken to the 
OR and underwent an uncomplicated irigation and debriedment of 
the shoulder. The patient tolerated the 
procedure without complications and was transferred to the PACU 
in stable condition. Please see operative report for details. 
Post operatively pain was controlled with a PCA with a 
transition to PO pain meds once tolerating POs. The patient 
tolerated diet advancement without difficulty and made steady 
progress with ___.

Weight bearing status: max weight bearing 1pound; okay to 
perform ADL's with L arm; 
range of motion as tolerated.

The patient received ___ antibiotics. The incision 
was clean, dry, and 
intact without evidence of erythema or drainage; and the 
extremity was NVI distally throughout. The patient was 
discharged in stable condition with written nstructions 
concerning precautionary instructions and the appropriate 
follow-up care. All questions were answered prior to discharge 
and the patient expressed readiness for discharge.  The patient 
was discharged with Bactrim 10days an adequate supply of pain 
medicaiton.  

 
Medications on Admission:
none
 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN pain 
do not drive while taking this medication 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every six (6) hours Disp #*50 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
3. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
4. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 10 Days 
take all of this medication 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left shoulder laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
******WOUND CARE******
- You can get the wound wet/take a shower starting ___, 
___, but do not scrub the wound. Do not remove the 
steristrips that are on the wound. Any stitches or staples that 
need to be removed will be taken out at your 2-week follow up 
appointment. No dressing is needed if wound continued to be 
non-draining.

******WEIGHT-BEARING******
- You are not allowed to lift anything heavier than a full can 
of soda; your weight limit on your Left arm is 1 pound; range of 
motion as tolerated
- You are allowed to use your Left arm for your regular daily 
activities (brush hair, eat, etc) as long as you do not lift 
more than 1 pound. 
- You can wear the sling for comfort, but it is not necessary 
for any other medical purpose at this time. 

******MEDICATIONS******
- You will need to take antibiotics for 10 days, twice a day, 
after leaving the hospital.  
- Resume your pre-hospital medications.
- You have been given medication for your pain control. Please 
do not operate heavy machinery or drink alcohol when taking this 
medication. As your pain improves please decrease the amount of 
pain medication. This medication can cause constipation, so you 
should drink eight 8-oz glasses of water daily and take a stool 
softener (colace) to prevent this side effect.
- Medication refills cannot be written after 12 noon on ___.

 
Followup Instructions:
___